US04922030
In each of the examples, a solution of 40.0 g (0.29 mole) monobromonitromethane and 70 ml of methanol was added in 18 minutes to a 55% formaldehyde solution in methanol maintained at 18° C. and containing various levels of alkaline catalyst. The reaction temperature was allowed to rise to 30° C. during the addition. Following the addition, the solution was heated to 60° C. and held there for three hours. The solution was then cooled to 20° C. and the pH adjusted to 4.3 with 1.0 molar aqueous HCl. The specific catalysts and amounts used thereof, as well as the resulting yields of bronopol, are set forth in the table below.

reactant | monobromonitromethane | 0.29 mole, 40.0 g | BrC[N+](=O)[O-] | CH2BrNO2
reactant | formaldehyde | C=O | CH2O
reactant | HCl | 1.0 molar | Cl | ClH
reactant | methanol | CO | CH4O
reactant | methanol | 70 ml | CO | CH4O
product | bronopol | C(C(CO)([N+](=O)[O-])Br)O | C3H6BrNO4
